US07544672B2
2-((2-amino-4-chloro-5-(4-hydroxybut-1-ynyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide
Crude 2-((4-chloro-5-(4-hydroxybut-1-ynyl)-2-pivalamido-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide (291 mg) was dissolved in 10 mL EtOH. An aliquot of this solution (2 mL) was further diluted with EtOH (5 mL) and treated with ZnCl2 (103 mg) at 120° C. for 20 min in a microwave oven. Reverse-phase preparative HPLC gave the title compound (2.2 mg), as a solid. HPLC Rt=4.88 min.

reactant | 2-((4-chloro-5-(4-hydroxybut-1-ynyl)-2-pivalamido-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide | 291 mg | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2C#CCCO)CC2=[N+](C=C(C(=C2C)OC)C)[O-] | C24H28ClN5O4
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | ZnCl2 | 103 mg | [Cl-].[Cl-].[Zn+2]
product | 2-((2-amino-4-chloro-5-(4-hydroxybut-1-ynyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide | 2.2 mg | NC=1N=C(C2=C(N1)N(C=C2C#CCCO)CC2=[N+](C=C(C(=C2C)OC)C)[O-])Cl | C19H20ClN5O3
